US20010053851A1
A solution of 3-cyclopentyl-2-[4-(3-dimethylamino-prop-1-ynyl)-phenyl]-propionic acid (150 mg, 0.50 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (332 mg, 0.75 mmol), triethylamine (0.21 mL, 1.50 mmol) and 2-aminothiazole (86 mg, 0.86 mmol) in methylene chloride (5 mL) was stirred at 25° C. for 2 h. At this time, the reaction was diluted with methylene chloride (10 mL). This solution was washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), and a half-saturated aqueous sodium chloride solution (1×10 mL). The aqueous layers were back extracted with methylene chloride (1×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 methylene chloride/methanol) afforded 3-cyclopentyl-2-[4-(3-dimethylamino-prop-1-ynyl)-phenyl]-N-thiazol-2-yl-propionamide (37 mg, 19.3%) as a white solid: mp 164-167° C.; EI-HRMS m/e calcd for C22H27N3OS (M+) 381.1874, found 381.1879.

reactant | 3-cyclopentyl-2-[4-(3-dimethylamino-prop-1-ynyl)-phenyl]-propionic acid | 0.50 mmol, 150 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CCN(C)C | C19H25NO2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.75 mmol, 332 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.50 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.86 mmol, 86 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-[4-(3-dimethylamino-prop-1-ynyl)-phenyl]-N-thiazol-2-yl-propionamide | 37 mg, 19.3% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C#CCN(C)C | C22H27N3OS
